US06762303B2
Synthesis of 1-(2-ethylhexyloxycarbonyl)-4-phenyl-1,4-dihydropyridine (Compound I-3)
1.9 g (0.01 mole) of CuI was added to a mixture of 18.7 g (0.236 mole) of pyridine and 150 ml of tetrahydrofuran under a N2 atmosphere, with stirring. The mixture was stirred at room temperature until the mixture became a homogeneous solution, and thereafter a solution of 40.5 g (0.21 mole) of ethylhexyl chloroformate and 20 ml of tetrahydrofuran was added to the mixture, dropwise, on an ice bath, so that the inner temperature of the reactor could not exceed 20° C. Further, 100 ml of 2M phenyl magnesium chloride solution (0.2 mole; THF solution) was added to the mixture, dropwise, over 1 hour, at the inner temperature of 0±3° C. The reaction mixture was stirred at 0±3° C. for 20 minutes, and further stirred at 25° C. for 1 hour. After removing about 60 ml of tetrahydrofuran by vacuum distillation, 180 ml of toluene was added to the resultant, and 60 g (0.061 mole) of 10% sulfuric acid was added dropwise. The resulting precipitate was removed by filtration through celite, and then the celite was washed with 40 ml of toluene. After removing the aqueous layer of the filtrate, the organic layer of the filtrate was washed twice with 180 ml each of 10% hydrochloric acid, and twice with 180 ml each of water. The organic layer was concentrate under a reduced pressure to obtain Compound I-3: obtained amount 63.1 g; purity 83.0% (determined by HPLC); yield 83.5%.

reactant | pyridine | 0.236 mole, 18.7 g | N1=CC=CC=C1 | C5H5N
reactant | ethylhexyl chloroformate | 0.21 mole, 40.5 g | ClC(=O)OC(CCCCC)CC | C9H17ClO2
reactant | phenyl magnesium chloride | 0.2 mole, 2M, 100 ml | C1(=CC=CC=C1)[Mg]Cl
reactant | sulfuric acid | 0.061 mole, 60 g | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | CuI | 0.01 mole, 1.9 g | [Cu]I
product | 1-(2-ethylhexyloxycarbonyl)-4-phenyl-1,4-dihydropyridine | yield 83.5% | C(C)C(COC(=O)N1C=CC(C=C1)C1=CC=CC=C1)CCCC | C20H27NO2
